US09353104B2
Step E: 6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-4-((5-methyl-1,3,4-thiadiazol-2-yl)methylamino)pyridazin-3(2H)-one (8)
2-(4-methoxybenzyl)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-4-(((5-methyl-1,3,4-thiadiazol-2-yl)methyl)amino)pyridazin-3(2H)-one (50 mg, 0.096 mmol) was dissolved in TFA (2 ml) and heated at 60° C. for 24 h. The mixture was cooled and the solvent was evaporated under reduced pressure. The crude was purified by Prep-HPLC to afford title product. LRMS m/z (M+H) 401.1 found, 401.1 required. 1H NMR (400 MHz, MeOD) δ 8.06 (d, 1H), 7.30 (dd, 1H), 7.17 (d, 1H), 5.94 (s, 1H), 4.81 (s, 2H), 4.15 (dd, 1H), 4.04 (dd, 1H), 3.85 (s, 3H), 2.75 (s, 3H), 2.11 (m, 1H), 1.72 (m, 1H), 1.21 (m, 1H), 1.07 (m, 1H).

reactant | 2-(4-methoxybenzyl)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-4-(((5-methyl-1,3,4-thiadiazol-2-yl)methyl)amino)pyridazin-3(2H)-one | 0.096 mmol, 50 mg | COC1=CC=C(CN2N=C(C=C(C2=O)NCC=2SC(=NN2)C)OC[C@@H]2[C@H](C2)C2=NC=C(C=C2)OC)C=C1 | C26H28N6O4S
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)-4-((5-methyl-1,3,4-thiadiazol-2-yl)methylamino)pyridazin-3(2H)-one | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC=1C=C(C(NN1)=O)NCC=1SC(=NN1)C | C18H20N6O3S
